US04071516
Into a flask containing 7.0 g. of 7-carboxy-1-isopropyl-4-(m-methoxyphenyl)-2(1H)-quinazolinone dissolved in anhydrous methanol is introduced hydrogen chloride gas until the temperature reaches 50° C. The flask is then equipped with a stopper and the reaction mixture allowed to stand under ambient conditions for 7 hours. The resulting mixture is evaporated to dryness, the residue taken up in benzene, washed with water, followed by evaporation to dryness and crystallization of the residue from methanol to obtain 7-carbomethoxy-1-isopropyl-4-(m-methoxyphenyl)-2(1H)-quinazolinone, m.p. 164°-167° C.

reactant | 7-carboxy-1-isopropyl-4-(m-methoxyphenyl)-2(1H)-quinazolinone | C(=O)(O)C1=CC=C2C(=NC(N(C2=C1)C(C)C)=O)C1=CC(=CC=C1)OC | C19H18N2O4
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | CO | CH4O
product | 7-carbomethoxy-1-isopropyl-4-(m-methoxyphenyl)-2(1H)-quinazolinone | C(=O)(OC)C1=CC=C2C(=NC(N(C2=C1)C(C)C)=O)C1=CC(=CC=C1)OC | C20H20N2O4
